US04937251
4-Amino-3,5-dichloro-α-[[[6-[2-(2-pyridinyl)ethoxy]hexyl]amino]methyl]benzenemethanol.
A solution of 5-(4-amino-3,5-dichlorophenyl)-3-[6-[2-(2-pyridinyl) ethoxy]hexyl]-2-oxazolidinone (80 mg) and 2N hydrochloric acid (1 ml) in THF (5 ml) was heated at 80° for 2 h. The solvent was evaporated and the aqueous residue extracted with ethyl acetate (2×25 ml). The aqueous layer was basified with 2N sodium hydroxide solution to pH10 and extracted with ethyl acetate (3×25 ml). The combined extracts were dried and evaporated to leave a pale yellow gum (70 mg). Crystallisation from ethyl acetate/n-hexane gave the title compound as a white crystalline solid m.p. 97.5°-100°, t.l.c. (System A 39:10:1) Rf 0.44.

reactant | 5-(4-amino-3,5-dichlorophenyl)-3-[6-[2-(2-pyridinyl) ethoxy]hexyl]-2-oxazolidinone | 80 mg | NC1=C(C=C(C=C1Cl)C1CN(C(O1)=O)CCCCCCOCCC1=NC=CC=C1)Cl | C22H27Cl2N3O3
reactant | hydrochloric acid | 2N, 1 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-Amino-3,5-dichloro-α-[[[6-[2-(2-pyridinyl)ethoxy]hexyl]amino]methyl]benzenemethanol | 70 mg | NC1=C(C=C(C=C1Cl)C(O)CNCCCCCCOCCC1=NC=CC=C1)Cl | C21H29Cl2N3O2
